US05700448
b) 8-t-Butoxy-2,2,6,6-tetramethylbenzo[1,2-d;5,4-d']bis(1,3)oxathiole
2,2,6,6-Tetramethylbenzo[1,2-d:5,4-d']bis(1,3)oxathiole (300 mg, 1.18 mmol) was dissolved in dry diethyl ether (30 mL) and the solution was cooled to -78° C. A solution of n-BuLi in hexane (2.5M, 0.52 mL) was added and the reaction was allowed to attain room temperature. After stirring for 1 hour, the mixture was cooled to -78° C. and transferred into a solution of MgBr2 in dry ether (prepared from magnesium, 60 mg and 1,2-dibromoethane, 0.2 mL in 2 mL ether) kept at -78° C. The mixture was stirred for 30 minutes at 0° C. and then, a solution of t-butylperbenzoate (0.24 mL, 0.12 mmol) in dry ether (2 mL) was added. After stirring for 1 hour at 0° C., the mixture was poured onto a mixture of ice and 0.1M aqueous HCl. The aqueous phase was extracted three times with ether and the combined organic phases were washed with aqueous NaHSO3, 2M NaOH, dried (MgSO4) and evaporated. The product was purified by preparative HPLC (RP-18, CH3CN: H2O 80:20). Yield 124 mg (32%).

reactant | 2,2,6,6-Tetramethylbenzo[1,2-d:5,4-d']bis(1,3)oxathiole | 1.18 mmol, 300 mg | CC1(OC=2C(S1)=CC=1SC(OC1C2)(C)C)C | C12H14O2S2
reactant | n-BuLi | [Li]CCCC
reactant | MgBr2 | [Mg+2].[Br-].[Br-]
reactant | t-butylperbenzoate | 0.12 mmol, 0.24 mL | C(C)(C)(C)OOC(C1=CC=CC=C1)=O | C11H14O3
reactant | HCl | 0.1M | Cl | ClH
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | hexane | 2.5M, 0.52 mL | CCCCCC | C6H14
solvent | ether | 0.2 mL, 60 mg | CCOCC | C4H10O
solvent | ether | 2 mL | CCOCC | C4H10O
product | 8-t-Butoxy-2,2,6,6-tetramethylbenzo[1,2-d;5,4-d']bis(1,3)oxathiole | C(C)(C)(C)OC1=C2C(SC(O2)(C)C)=CC=2SC(OC21)(C)C | C16H22O3S2
